US06117873
d1) 5-Aminomethyl-7-nitro-2,3-dimethoxyquinoxaline
13.8 9 (29.7 mmol) of 5-[di-(tert-butoxycarbonyl)amino]methyl-7-nitro-2,3-dimethoxyquinoxaline are stirred at room temperature for 8 hours in 60 ml of trifluoroacetic acid. The reaction mixture is concentrated under reduced pressure and the red oil is well stirred at 0° for one hour with 1N potassium carbonate. The yellow crystals are filtered off, washed with 100 ml of water and 100 ml of a 1:1 mixture of ethyl acetate and hexane, and dried.

reactant | 5-[di-(tert-butoxycarbonyl)amino]methyl-7-nitro-2,3-dimethoxyquinoxaline | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CC1=C2N=C(C(=NC2=CC(=C1)[N+](=O)[O-])OC)OC | C21H28N4O8
solvent | trifluoroacetic acid | 60 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 5-Aminomethyl-7-nitro-2,3-dimethoxyquinoxaline | NCC1=C2N=C(C(=NC2=CC(=C1)[N+](=O)[O-])OC)OC | C11H12N4O4
